US04138490
4-Methylquinol-2-one (24.0g.) was added in portions to a stirred suspension of sodium hydride [6.5g.; weighed as a 60% w/w dispersion in oil, but subsequently washed by decantation with petroleum ether (b.p. 40°-60° C.)] in dimethylformamide (150ml.), at 20°-25° C. After the addition was complete the mixture was stirred at 20°-25° C. for a further 1 hour. Benzyl chloride (23.0g.) was then added and the subsequent mixture was heated at 95°-100° C. for 20 hours. The mixture, which contained some solid, was then added to water (1 liter) and the resultant mixture was stirred for 1 hour. The solid which formed was separated by filtration, washed with water, and then was resuspended in a mixture of water (300ml.) and 2N hydrochloric acid (50ml.). This mixture was stirred for 15 minutes and then the solid separated by filtration to give 1-benzyl-4-methylquinol-2-one, as a white crystalline solid, 20.0g., m.p. 109°-111° C. after recrystallisation from cyclohexane.

reactant | 4-Methylquinol-2-one | 24.0g | CC1=CC(NC2=CC=CC=C12)=O | C10H9NO
reactant | sodium hydride | [H-].[Na+]
product | 1-benzyl-4-methylquinol-2-one | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)C)=O | C17H15NO
